US08372874B2
Step 2: Synthesis of 2-methyl-2-(3,3,3-trifluoro-propylsulfanyl)-propionic acid ethyl ester
A solution of 2-acetylsulfanyl-2-methyl-propionic acid ethyl ester (1.7 g, 8.72 mmol), toluene-4-sulfonic acid 3,3,3-trifluoro-propyl ester (2.3 g, 8.72 mmol) and sodium methoxide (1.9 g, 34.9 mmol) in ethanol (13 mL) are heated to 130° C. in a sealed tube for 4 h. The reaction is cooled to room temperature and concentrated under reduced pressure. The residue is diluted with DCM and washed with saturated aqueous NaHCO3 solution and brine. The organic layer is dried (Na2SO4), filtered and the filtrate concentrated under reduced pressure to afford 1.76 g of title compound as a brown solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.28 (3H, t, J=7 Hz), 1.51 (3H, s), 2.26-2.42 (2H, m), 2.76-2.85 (2H, m), 4.18 (2H, q, J=6.96 Hz)

reactant | 2-acetylsulfanyl-2-methyl-propionic acid ethyl ester | 8.72 mmol, 1.7 g | C(C)OC(C(C)(C)SC(C)=O)=O | C8H14O3S
reactant | toluene-4-sulfonic acid 3,3,3-trifluoro-propyl ester | 8.72 mmol, 2.3 g | FC(CCOS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C10H11F3O3S
reactant | sodium methoxide | 34.9 mmol, 1.9 g | C[O-].[Na+]
solvent | ethanol | 13 mL | C(C)O | C2H6O
product | 2-methyl-2-(3,3,3-trifluoro-propylsulfanyl)-propionic acid ethyl ester | 1.76 g | C(C)OC(C(C)(SCCC(F)(F)F)C)=O | C9H15F3O2S
